US07034039B2
A mixture of methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate (10.26 g, 20 mmol), 2-thiopheneboronic acid (3.07 g, 24 mmol), sodium carbonate (5.30 g, 50 mmol), toluene (50 ml), methanol (10 ml) and water (10 ml) was stirred at room temperature for 30 min under an argon atmosphere. To the resulting mixture was added tetrakis(triphenylphosphine)palladium (1.16 g, 1 mmol), the mixture was refluxed under heating for 10 h under an argon atmosphere. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylate (2.11 g, 23.6%) as crystals.

reactant | methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate | 20 mmol, 10.26 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)OS(=O)(=O)C(F)(F)F | C23H22F3NO7S
reactant | 2-thiopheneboronic acid | 24 mmol, 3.07 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 50 mmol, 5.30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1 mmol, 1.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | methyl 6-(benzyloxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinecarboxylate | 2.11 g, 23.6% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)C=1SC=CC1 | C26H25NO4S
